US06992107B1
2-Methyl-1-pentyl 5-amino-4-oxopentanoate hydrochloride [compound 13]
From 2-methyl-1-pentanol (6.0 ml) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol) at 70° C. The reaction was complete after 3.5 h. The yield was 1.43 g (95%).

reactant | 2-methyl-1-pentanol | 6.0 ml | CC(CO)CCC | C6H14O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 2-Methyl-1-pentyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC(CCC)C)=O | InChI=1S/C11H21NO3.ClH/c1-3-4-9(2)8-15-11(14)6-5-10(13)7-12;/h9H,3-8,12H2,1-2H3;1H
